US07153861B2
Ethyl 2-(4-chlorophenyl)-4-oxopyrimidine-5-carboxylate
Sodium ethoxide (11.12 ml, 2 equiv) as a 21% w/v solution in ethanol was added dropwise to a suspension of diethyl ethoxymalonate (3.03 ml, 1 equiv) and 4-chlorobenzamidine hydrochloride (4.23 g, 1 equiv) in ethanol (30 ml), then the mixture was heated to reflux for 4 hours. After cooling, the solvent was removed in vacuo and the residue was triturated with ether. The solid was filtered off, then resuspended in water and acidified to pH 2. The product was filtered off, washed with water and dried; yield 2.94 g. 1H-NMR (d6-DMSO) δ 1.29 (3H, t), 4.26 (2H, q), 7.65 (2H, m), 8.18 (2H, m), 8.65 (1H, s); MS (APCI−) found (M−1) =277/279; C13H11ClN2O3 requires 278/280.

reactant | Sodium ethoxide | 11.12 ml, 2 equiv | [O-]CC.[Na+]
reactant | diethyl ethoxymalonate | 3.03 ml, 1 equiv | C(C)OC(C(=O)OCC)C(=O)OCC | C9H16O5
reactant | 4-chlorobenzamidine hydrochloride | 4.23 g, 1 equiv | Cl.ClC1=CC=C(C(=N)N)C=C1
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Ethyl 2-(4-chlorophenyl)-4-oxopyrimidine-5-carboxylate | ClC1=CC=C(C=C1)C1=NC=C(C(N1)=O)C(=O)OCC | C13H11ClN2O3
